US05154851
4-Propylphenylacetylene (7.21 g, 0.05 mol) and 4-(1-propynyl)iodobenzene (12.1 g, 0.05 mol) were dissolved in diethylamine (30 cc), and then copper iodide (0.29 g, 1.5 mmol) and dichlorobistriphenylphosphinepalladium dichloride (0.53 g, 0.75 mmol) were added. The resulted mixture was reacted with stirring in nitrogen gas current at about 20° C. for 8 hours. After completion of the reaction, water (100 ml) was added to the resulting reaction mixture. The resulting deposited mass was extracted with toluene (50 ml). The resulting toluene solution was washed with dilute hydrochloric acid, followed by water until the washing water became neutral. The resulting material was dried over anhydrous sodium sulfate. Toluene was distilled off from the toluene solution. The residue was then dissolved in a mixed solvent of n-hexane/methylene chloride (1 vol./1 vol.). The solution was subjected to column chromatography using silica gel as a fixed phase, and using the above mixed solvent as an eluent. Fractions showing a single spot were collected by TLC and the mixed solvent was distilled. The residue after distillation was recrystallized from ethyl alcohol (20 ml) to obtain the objective 4-propyl-4'-(1-propynyl)tolan (compound No. 1) (6.7 g). This compound exhibited liquid crystal phases (CI point: 87.7° C., NI point: 85.1° C.).

reactant | 4-Propylphenylacetylene | 0.05 mol, 7.21 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
reactant | 4-(1-propynyl)iodobenzene | 0.05 mol, 12.1 g | C(#CC)C1=CC=C(C=C1)I | C9H7I
reactant | water | 100 ml | O | H2O
solvent | diethylamine | 30 cc | C(C)NCC | C4H11N
catalyst | copper iodide | 1.5 mmol, 0.29 g | [Cu](I)I
product | 4-propyl-4'-(1-propynyl)tolan | C(CC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#CC | C20H18
